US04209515
0.10 g of sodium iodide is added to a mixture of 9.3 g (0.0226 mole) of 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid (see German `Offenlegungsschrift` No. 2,159,527, page 32) and 9.5 g (0.11 mole) of morpholine in 100 ml of ethanol, and the whole is refluxed for 2 hours. The reaction mixture is thereupon concentrated in vacuo; the residue is dissolved in water, and 2 N hydrochloric acid is added until an acid reaction to Congo red is obtained. The precipitated hydrochloride of the reaction product is extracted twice with 100 ml of methylene chloride each time. After washing with saturated sodium chloride solution, drying over sodium sulphate and concentration by evaporation, the organic extracts yield 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(morpholinomethyl)-1H-1,2,4-triazole-3-carboxylic acid hydrochloride in the form of an amorphous yellow foam, which is used directly for the next step.

reactant | sodium iodide | 0.10 g | [I-].[Na+]
reactant | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.0226 mole, 9.3 g | ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)N2N=C(N=C2CCl)C(=O)O)C=CC=C1 | C17H10Cl3N3O3
reactant | morpholine | 0.11 mole, 9.5 g | N1CCOCC1 | C4H9NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[2-(o-chlorobenzoyl)-4-chlorophenyl]-5-(morpholinomethyl)-1H-1,2,4-triazole-3-carboxylic acid hydrochloride | Cl.ClC1=C(C(=O)C2=C(C=CC(=C2)Cl)N2N=C(N=C2CN2CCOCC2)C(=O)O)C=CC=C1 | InChI=1S/C21H18Cl2N4O4.ClH/c22-13-5-6-17(15(11-13)19(28)14-3-1-2-4-16(14)23)27-18(24-20(25-27)21(29)30)12-26-7-9-31-10-8-26;/h1-6,11H,7-10,12H2,(H,29,30);1H
